US07429665B2
2-{4-[-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline
To a solution of 2-[4-(4-Pyridin4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline (26.5 g) in dimethyl formamide (140 mL) was added 1,1,1-Trifluoro-2-iodo-ethane (21 mL, 2.0 eq.) and cesium carbonate (68.3 g, 3 eq.) and the reaction mixture heated at 60° C. for 24 h. The reaction mixture was diluted with water, extracted 3× methylene chloride, dried with magnesium sulfate, filtered and concentrated. Purification via flash chromatography eluting with 5% methanol/70% ethyl acetate/hexanes provided the title compound 20.85 g as an 8:1 regioisomeric mixture. Preparative HPLC eluting with acetonitile/methanol (98:2) on a chiralpak AD column with a flow rate of 430 ml/Min provided the pure title compound as a free base 13.4 g. 1H NMR (400 MHz, CDCl3) δ 8.45 (m, 2 H), 8.16 (d, J=8.3 Hz, 1 H), 8.04 (d, J=8.3 Hz, 1H), 7.96 (s, 1H), 7.79 (d, J=8.3 Hz, 1 H), 7.69 (m, 1 H), 7.64 (d, J=8.3 Hz, 1 H), 7.50 (m, 1H), 7.36 (d, J=8.7 Hz, 2 H), 7.14 (d, J=6.2 Hz, 2H), 6.98 (d, J=9.1 Hz, 2 H), 5.35 (s, 2H), 4.75 (q, J=8.3 Hz, 2 H); MS: (M+H m/z=427.1).MS: (M+H m/z=461.2).

reactant | 2-[4-(4-Pyridin4-yl-2H-pyrazol-3-yl)-phenoxymethyl}-quinoline | 26.5 g | N1=CC=C(C=C1)C1=C(NN=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H18N4O
reactant | 1,1,1-Trifluoro-2-iodo-ethane | 21 mL, 2.0 eq. | FC(CI)(F)F | C2H2F3I
reactant | cesium carbonate | 68.3 g, 3 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethyl formamide | 140 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-{4-[-Pyridin-4-yl-1-(2,2,2-trifluoro-ethyl)-1H-pyrazol-3-yl]-phenoxymethyl}-quinoline | 20.85 g | N1=CC=C(C=C1)C=1C(=NN(C1)CC(F)(F)F)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C26H19F3N4O
